US04853410
3-(3-Chloro-4-fluorophenoxy)butyric Acid
To a solution of 27.2 g (0.68 mol) sodium hydroxide in 272 ml water was added 100 g (0.68 mol) 3-chloro-4-fluorophenol. The solution was warmed to reflux and 55.4 ml (0.68 mol) of beta-butyrolactone was added dropwise over a 1 hour period. The reaction was cooled to 23° C. and the pH brought to 7 with concentrated hydrochloric acid. The neutral solution was washed with 3×150 ml diethyl ether to remove unreacted phenol and then acidified to pH 2 with concentrated hydrochloric acid, extracted with 150 ml 1,2-dichloroethane, dried over magnesium sulfate and concentrated in vacuo to 4.3 g of an oil which by nuclear magnetic resonance examination was composed of 44 mol percent product and 56% 3-hydroxybutyric acid. The original diethyl ether washes were extracted with 3×150 ml saturated sodium bicarbonate. The combined bicarbonate solutions were extracted with 150 ml diethyl ether and then the pH was brought to 2 with concentrated hydrochloric acid. Extraction with diethyl ether, washing with brine and drying over magnesium sulfate and concentration in vacuo gave 16.2 g (10.2%) of title product as an oil.

reactant | sodium hydroxide | 0.68 mol, 27.2 g | [OH-].[Na+]
reactant | 3-chloro-4-fluorophenol | 0.68 mol, 100 g | ClC=1C=C(C=CC1F)O | C6H4ClFO
reactant | beta-butyrolactone | 0.68 mol, 55.4 ml | C1(CC(C)O1)=O | C4H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 272 ml | O | H2O
product | 3-(3-Chloro-4-fluorophenoxy)butyric Acid | 16.2 g, 10.2% | ClC=1C=C(OC(CC(=O)O)C)C=CC1F | C10H10ClFO3
